Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
seizures
 
Major Surgical or Invasive Procedure:
endotracheal intubation ___
 
History of Present Illness:
Mr ___ ___ (EU ___  ___ with a 
past
medical history of EtOH abuse (current reported abstinence),
epilepsy on keppra and oxcarb who presents as a transfer for ?
status.

Essentially, he has felt unwell for the past several days with
n/v and diarrhea.  He has been taking his medications, but it is
not clear if he has been keeping them down.  Today, on the day 
of
presentation, he was not answering his telephone, so his GF went
to visit him at home.  No one answered the door, so someone
___ technician) snuck through the window to let her in. 
There, he was found down and unresponsive.  ___ then 
witnessed
him have a GTC that lasted ___ minutes.  EMS was called.  BG was
WNL.  He was taken to OSH, where he was witnessed to have 2
reportedly generalized seizure by EMS (referred to in ED
documentation).  He appears to have received Ativan 2mg x2 for
this.

He remained unresponsive and was eventually intubated for ? NCSE
and AMS with etomidate and propofol.  Following this, his
Neurologist Dr. ___ was contacted and eventually transfer 
for
cvEEG was requested.  Upon arrival here, neurology was 
consulted.

Per his outpatient Neurology notes by Dr. ___ 
(available
in ___ records ) he has partial complex seizures.  His
significant other tells me he has daily seizures, consisting of
staring spells and word finding difficulty.  He has had GTCs in
the past, and his sister tells he he has been hospitalized at
least once for status epilepticus.  At his most recently
Neurology visit, his Keppra was increased to 2g BID (trileptal
dose remained the stable).  He was to be evaluated for a VNS.

Additionally, he has had several recent admission to ___ 
in
___ and ___  for a combination of issues including EtoH
withdrawal, likely EtoH withdrawal seizures (vs epileptic
seizures), pneumonia and chronic hyponatremia.  Pllease see ___ records for full details.  Following these
hospitalizations he went to alcohol rehab and left there 2 weeks
ago. His sister reports that he has been sober for 8 weeks.

RoS unable to be gathered, but reportedly has been ill the past
several days as above.

 
Past Medical History:
- Seizure disorder (grand mal seizures as a child, then in 
remission for many years until recent recurrence) 
- ETOH Abuse, prior EtOH w/d Seizures.  Currently 8 weeks sober.
- Chronic Hyponatremia
 
Social History:
___
Family History:
-No family history of seizures
 
Physical Exam:
ADMISSION EXAMINATION:

Vitals:  
99.1 101 116/73 17 100% intubated 
General:  Intubated
HEENT: NCAT, neck supple
___: RRR,
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Intubated.  Opens eyes to voice, but does not
consistently follow commands.  Briskly reacts to noxious.

- Cranial Nerves: PERRL 2->1 brisk. No clear BTT b/l. Gaze
midline, grossly symmetric.+ Corneals. Grimace symmetric.
Negative VORs (but sedated).  + Cough and Gag.  Tongue midline.

- Motor-Sensory:  Normal bulk and tone. When not sedated, he
briskly moves all 4 extremies antigravity, though more formal
testing unable to be done.  No lateralized weakness.
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2     2      2       2        1
 R  2     2      2       2        1  

Plantar response upgoing bilaterally 

Discharge EXAMINATION:
Vitals:  
T: 98.4, BP 105-130/90's, HR 70's, O2 98% RA General: sitting in
bed, NAD
HEENT: NCAT, neck supple, EEG in place
___: no cyanosis
Pulmonary: breathing well on RA
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x2, repetition intact.
Pleasant and interactive. Names high frequency objects. 
Attentive
to examiner. Able to relate history, understanding of his
condition. Denies SI/HI. No evidence of hemineglect. 
- Cranial Nerves: PERRL 2->1 brisk. EOMI, face symmetric, tongue
midline.
- Motor-Sensory:  Normal bulk and tone. Moves all extremities
antigravity
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2     2      2       2        1
 R  2     2      2       2        1  
-Gait: ambulates independently down hallway. No ataxia or sway.
Narrow based. 

 
Pertinent Results:
LABORATORY EVALUATION:

___ 06:00PM BLOOD WBC-11.1* RBC-4.63 Hgb-14.8 Hct-41.3 
MCV-89 MCH-32.0 MCHC-35.8 RDW-13.5 RDWSD-44.6 Plt ___
___ 06:00PM BLOOD Neuts-77.6* Lymphs-11.0* Monos-10.8 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-8.57* AbsLymp-1.22 
AbsMono-1.19* AbsEos-0.00* AbsBaso-0.01
___ 06:00PM BLOOD ___ PTT-29.4 ___
___ 06:00PM BLOOD Glucose-107* UreaN-6 Creat-0.7 Na-127* 
K-5.0 Cl-96 HCO3-15* AnGap-21*
___ 12:45AM BLOOD Glucose-86 UreaN-7 Creat-0.7 Na-137 K-4.4 
Cl-105 HCO3-22 AnGap-14
___ 06:00PM BLOOD ALT-40 AST-46* CK(CPK)-227 AlkPhos-63 
TotBili-0.5
___ 12:45AM BLOOD Albumin-3.8 Calcium-8.6 Phos-3.1 Mg-2.3
___ 06:00PM BLOOD cTropnT-0.02*
___ 12:45AM BLOOD CK-MB-4 cTropnT-<0.01
___ 05:37AM BLOOD CK-MB-4 cTropnT-<0.01
___ 06:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:45AM BLOOD Ammonia-59
___ 07:44PM BLOOD LEVETIRACETAM (KEPPRA)- *************
___ 07:44PM BLOOD TRILEPTAL- *********

IMAGING EVALUATION:

NCHCT: no acute intracranial process.  Involution changes and
subtle microvascular angiopathy stable from ___

CT C-spine: No cervical vertebral fracture or traumatic
subluxation. Multilevel degenerative changes as detailed.

EEg ___
IMPRESSION: This telemetry captured a single pushbutton 
activation, showing no 
evidence of epileptiform activity or seizure at the time. The 
rest of the 
record showed a slow background with bursts of generalized 
slowing, indicating 
widespread encephalopathy. Medications, metabolic disturbances, 
and infection 
are among the most common causes. There were no areas of 
prominent focal 
slowing. The background appeared to improve somewhat over the 
course of the 
recording. There were several isolated left frontotemporal sharp 
and slow wave 
discharges but no repetitive discharges or electrographic 
seizures.. 

EEG ___
IMPRESSION: This telemetry captured no pushbutton activations. 
It showed a 
single left anterior quadrant sharp and slow wave discharge, 
without 
repetition. Otherwise, it showed a normal background from 
wakefulness or 
drowsiness. There were no other epileptiform features or any 
electrographic 
seizures. 

 
Brief Hospital Course:
Mr ___ ___ (EU ___  ___ is a ___ 
male with a past medical history of EtOH abuse (current reported 
abstinence), epilepsy on keppra and oxcarb who presents as a 
transfer for ? status in setting of poor enteral absorption due 
to  GI illness as well as hyponatremia.

# Neurologic
Seizures: patient was admitted to neuro ICU for multiple 
seizures witnessed by EMS. He arrived intubated after starting 
on versed and received etomidate. cvEEG was started and showed 
no active seizures; he had diffuse slow activity and left 
temporal sharp discharges. Etiology of breakthrough seizures 
suspected to be a combination of poor enteral absorption in 
setting of GI illness as well as hyponatremia. He denied 
medication noncompliance or alcohol relapse, and tox screen was 
negative for serum EtOH. Keppra and trileptal levels sent on 
admission. He was continued on his home keppra 2000mg BID and 
trileptal 900mg BID. Of note, ___ records indicate that 
his family was reporting daily "staring episodes" for which his 
outpatient provider ___ been ___ his keppra 
and considering VNS.

Encephalopathy: he was found to be alert and following commands, 
and subsequently extubated on day 1 of admission. On 
re-evaluation after extubation, he was notably confused, 
disoriented, and encephalopathic, with mild asterixis, but able 
to follow commands and without any focality. On discussion with 
his sister he has had a longstanding history of memory problems, 
and is assisted in his ADLs by his girlfriend ___, but 
appears to be far from his baseline. His toxometabolic workup 
included ammonia which was normal; etiology suspected to be 
multifactorial, with factors including recent administration of 
sedating medications, several seizures, and hyponatremia, 
requiring a prolonged period of recovery in a patient with 
chronic cerebral atrophy and limited reserve. He was also 
started on high dose IV thiamine x3 days.

# Renal
Na was 127 on arrival, suspected ___ volume loss from recent 
vomiting/GI illness. He had fluid resuscitation and was briefly 
started on salt tabs. After receiving fluids, this improved to 
137 and salt tabs were discontinued. On review of records, it 
appears that his baseline Na is between low 130s-140. Of note, 
prior to transfer from ICU he did have increased urine output, 
which improved throughout admission.

# MSK
ACS was consulted for a tertiary survey post-trauma. He had CT 
c-spine at OSH which did not show any acute fractures. He was 
cleared by ACS.

#Leukopenia
Patient was noted to be leukopenic with absolute lymphocyte 
count of 0.76. This was thought to be due to recent viral 
illness and improved throughout hospitalization. HIV was sent 
and was negative. He should have a repeat CBC with differential 
in 1 week (___).

He was seen by ___ who recommended rehab. He was discharged in 
stable condition. 
Anticipated length of stay less than 30 days. 

Transitional issues:
-Repeat CBC with differential in 1 week (___)
-Neurology follow up

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LevETIRAcetam ___ mg PO BID 
2. OXcarbazepine 900 mg PO BID 
3. Metoprolol Tartrate 50 mg PO BID 
4. Thiamine 100 mg PO DAILY 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*3 
2.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*3 
3.  Polyethylene Glycol 17 g PO DAILY  
4.  Ramelteon 8 mg PO QHS:PRN sleep  
5.  LevETIRAcetam ___ mg PO BID  
6.  Metoprolol Tartrate 50 mg PO BID  
7.  OXcarbazepine 900 mg PO BID  
8.  Thiamine 100 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Breakthrough seizure
Epilepsy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted after having a seizure at home. Since you 
report that you take your seizure medication regularly and you 
are not drinking alcohol, it is unclear what precipitated this 
breakthrough seizure. You were monitored on EEG, which showed no 
seizures. You were continued on your home seizure medications 
unchanged. You were started on additional vitamins, which you 
should continue taking at home. You returned to your baseline 
and were discharged to rehab facilty.

It was a pleasure caring for you.

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___